US06462092B1
A solution of 3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]phenol (11.0 g, 34.9 mmol), 3,3,3-trifluoro-1,2-epoxypropane (4.5 mL, 52.4 mmol) and ytterbium trifluoromethanesulfonate (2.2 g, 10 mol %) in 20 mL of acetonitrile was heated at 50° C. in a sealed glass tube for 16 h. The reaction mixture was cooled, water was added. and the reaction mixture was extracted with ether. The ether layer was washed with saturated aqueous sodium bicarbonate and brine and dried over MgSO4. The dried organic layer was evaporated to give 8.07 g (89%) of the desired 3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl](3,3,3-trifluoro-2hydroxypropyl)amino]phenol product as a yellow oil. HRMS calcd. for C18H17F7NO3: 428.1097 [M+H]+, found: 428.1104. 1H NMR (CDCl3) δ 3.58 (dd, 1H), 3.88 (dd, 1H), 4.39 (m, 1H), 4.68 (s, 2H), 5.91 (tt, 1H), 6.25-6.37 (m, 3H), 7.07-7.14 (m, 4H), 7.35 (t, 1H).

reactant | 3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl]amino]phenol | 34.9 mmol, 11.0 g | FC(C(F)F)(OC=1C=C(C=CC1)CNC=1C=C(C=CC1)O)F | C15H13F4NO2
reactant | 3,3,3-trifluoro-1,2-epoxypropane | 52.4 mmol, 4.5 mL | FC(C1CO1)(F)F | C3H3F3O
reactant | ytterbium trifluoromethanesulfonate | 2.2 g | FC(S(=O)(=O)[O-])(F)F.[Yb+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
reactant | water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-[[[3-(1,1,2,2-tetrafluoroethoxy)phenyl]methyl](3,3,3-trifluoro-2hydroxypropyl)amino]phenol | 8.07 g, 89% | FC(C(F)F)(OC=1C=C(C=CC1)CN(C=1C=C(C=CC1)O)CC(C(F)(F)F)O)F | C18H16F7NO3
